US06150373
A solution of 100 mg (0.22 mmol) of 3-(2,6-dichlorophenyl)-7-methanesulfonyl-1-phenyl-3,4-dihydro-1H-pyrimido[4,5-d]pyrimidin-2-one and 300 μl (2.4 mmol) of cyclohexylamine in 2 ml of dichloromethane was stirred at room temperature overnight. The mixture was diluted with 10 ml of dichloromethane, washed with 10 ml of 2M hydrochloric acid and with 10 ml of saturated aqueous sodium bicarbonate solution, dried over magnesium sulfate, filtered and evaporated. 99 mg (96%) of 3-(2,6-dichlorophenyl)-7-cyclohexylamino-3,4-dihydro-1-phenylpyrimido[4,5-d]pyrimidin-2(1H)-one were isolated as a white foam of melting point 258-259° C.

reactant | 3-(2,6-dichlorophenyl)-7-methanesulfonyl-1-phenyl-3,4-dihydro-1H-pyrimido[4,5-d]pyrimidin-2-one | 0.22 mmol, 100 mg | ClC1=C(C(=CC=C1)Cl)N1C(N(C2=NC(=NC=C2C1)S(=O)(=O)C)C1=CC=CC=C1)=O | C19H14Cl2N4O3S
reactant | cyclohexylamine | 2.4 mmol, 300 μl | C1(CCCCC1)N | C6H13N
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 3-(2,6-dichlorophenyl)-7-cyclohexylamino-3,4-dihydro-1-phenylpyrimido[4,5-d]pyrimidin-2(1H)-one | 99 mg, 96% | ClC1=C(C(=CC=C1)Cl)N1C(N(C2=NC(=NC=C2C1)NC1CCCCC1)C1=CC=CC=C1)=O | C24H23Cl2N5O
